Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Sulfa (Sulfonamide Antibiotics) / 
Erythromycin Base / Nsaids / Lithobid / Nexium / Tetracycline / 
simvastatin / mirtazapine / fluticasone
 
Attending: ___.
 
Chief Complaint:
Bright Red Blood Per Rectum 
Lightheadedness 
 
Major Surgical or Invasive Procedure:
Colonoscopy ___ 
 
History of Present Illness:
___ with hx of diverticulosis without episodes of prior
diverticular bleed, bipolar disorder, PUD and hypothyroidism who
is presenting with BRBPR with every bowel movement since ___
and now has lightheadedness. 

She states that she first noticed the dark red blood with bowel
movements (in both bowl and stool) on ___. The blood 
increased
in volume on ___, and was accompanied by dizziness for much 
of
the day on ___, worse with standing. Has had occasional blood
on TP with wiping in the past, but has never had this extent of
bleeding. She endorses decreased appetite over the past week. 
She
also endorses generalized abdominal discomfort with eating and
nausea, but no vomiting. She denies chest pain, SOB, v/d. She 
has
been able to tolerate PO and medications.  

Of note, she had a colonoscopy in ___, which showed normal
colon to cecum and terminal ileum. However, could not obtain
complete visualization at that time due to inadequate prep.
 
In the ED, initial vital signs were: 96.6 143/74 76 18 98/RA
Exam notable for: RRR. CTAB. RLQ tenderness with guarding, no
peritoneal signs. No c/c/e. AAOx3. No external hemorrhoids,
hemoccult positive brown stool 

Labs were notable for:
- Nl CBC Hb 12.7
- Nl Chem 7 BUN 15
- INR 1.1

Studies performed include:
- CT AP:
1. No evidence of diverticulitis or cholecystitis. The appendix
is not
visualized, but there are no secondary signs of appendicitis.
2. Fluid-filled colon and rectum, which can be seen in diarrheal
illnesses. Recommend clinical correlation.
3. There is a dilated left gonadal vein with reflux of contrast
and pelvic varices, which can be seen in the setting of pelvic
congestion syndrome. Clinical correlation is necessary.
- EKG: Sinus, no ischemic changes. 

Patient was given: 1L IVF

Consults: GI consult- clears until midnight, then NPO, 2L
moviprep

Vitals on transfer:  97.3 159/78 66 18 99% RA 

Upon arrival to the floor, the patient still notices occasional
brown stool with her predominantly clear liquid BMs, but no
visible blood. Endorses upper abdominal discomfort, nausea, and
"rawness" from the colonoscopy prep. Denies lightheadedness with
sitting. Feeling thirsty.
 
Past Medical History:
- Left-sided severe atypical ductal hyperplasia and a 
right-sided
complex sclerosing lesion
- Diverticulosis
- Constipation
- Bipolar disease
- Peptic ulcer disease
- Osteoarthritis
- Anemia
- Hypothyroidism
 
Social History:
___
Family History:
Father with colon polyps (?adenomas)
Two paternal aunts with breast cancer arising in their ___ 
Paternal first cousin who had breast cancer in her ___ T
No other family members with breast or ovarian cancer
Maternal uncle died from lung cancer - heavy smoker 
brother has lung cancer - heavy smoker
___ daughter with chromosome 22q11.13 microdeletion
syndrome
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
VITALS: 97.3 159/78 66 18 99% RA
GENERAL: Pleasant, alert, and interactive. No acute distress.
HEENT: Sclera anicteric. +Arcus senilis. PERRL.
CARDIO: RRR. No murmurs, rubs, or gallops.
PULM: Poor inspiratory effort, but lungs CTAB. No wheezes,
rhonchi, or rales. No increased work of breathing.
ABD: Abdomen soft, mildly distended. Tender to palpation of
epigastrium and LUQ. No guarding or rebound.
EXT: WWP. Palpable DP pulses bilaterally. No ___ edema.
NEURO: A&Ox3. Moving all 4 extremities. Sensation grossly 
intact.

DISCHARGE PHYSICAL EXAM 
VITALS: 98.2F, BP 139/73, HR 74, RR 16, O2 98% RA 
GENERAL: Sleeping comfortably. Pleasant and conversational when 
awoken.
HEENT: Sclera anicteric. PERRL.
CARDIO: RRR. No murmurs, rubs, or gallops.
PULM: CTAB. No wheezes, rhonchi, or rales. No increased work of 
breathing.
ABD: Abdomen soft, mildly distended. Nontender. No guarding or 
rebound.
EXT: WWP. Palpable DP pulses bilaterally. No ___ edema.
NEURO: A&Ox3. Moving all 4 extremities. Sensation grossly 
intact.
 
Pertinent Results:
ADMISSION LABS
___ 08:35PM   WBC-8.1 RBC-4.70 HGB-13.9 HCT-42.9 MCV-91 
MCH-29.6 MCHC-32.4 RDW-12.4 RDWSD-41.0
___ 08:35PM   NEUTS-44.2 ___ MONOS-8.8 EOS-3.1 
BASOS-1.1* IM ___ AbsNeut-3.56 AbsLymp-3.41 AbsMono-0.71 
AbsEos-0.25 AbsBaso-0.09*
___ 08:35PM   PLT COUNT-245
___ 02:25PM   ___ PTT-32.3 ___
___ 01:00PM   GLUCOSE-81 UREA N-15 CREAT-0.7 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-29 ANION GAP-13
___ 01:00PM   WBC-7.3 RBC-4.33 HGB-12.7 HCT-38.9 MCV-90 
MCH-29.3 MCHC-32.6 RDW-12.2 RDWSD-40.0
___ 01:00PM   PLT COUNT-230

DISCHARGE LABS
___ WBC 8.3 H/H 11.5/35.2 Plt 210 
___ Na 140 K 3.8 Cl 105 HCO3 24 BUN 8 Cr 0.___rief Hospital Course: 
___ female with a history of diverticulosis without 
prior bleeding, PUD, and bipolar disorder who presents after 4 
days of BRBPR and lightheadedness, found on colonoscopy to have 
internal hemorrhoids and diverticulosis but no active bleeding. 

ACUTE ISSUES 
=======================
#BRBPR
Patient presenting with 4 day history of BRBPR with BMs and 
lightheadedness. Hgb 12.2 (near baseline of 13). The patient 
does have known h/o both diverticulosis and PUD. She underwent 
colonoscopy on ___, which showed no blood or evidence of 
recent bleeding. Internal hemorrhoids and diverticulosis of the 
sigmoid colon were seen, which may have caused the bleeding. A 
polyp was also visualized in the transverse colon but not 
removed given the indication for this colonoscopy was bleeding. 
She will need a repeat colonoscopy for polyp removal within one 
year. She was started on a PPI and H. pylori stool antigen was 
sent. 

CHRONIC ISSUES 
=======================
#Hypothyroidism
- Continued home levothyroxine

#History of PUD
- Continued home ranitidine

#Anxiety/Psych 
- Continued home Effexor, Trazadone, Clonazepam, Seroquel 

#Osteoarthritis 
- Continued home glucosamine

TRANSITIONAL ISSUES
=======================
New Meds: Omeprazole 20 mg daily 

[ ] Started omeprazole 20 mg daily for abdominal discomfort 
associated with meals, which may be due to gastric ulcers. 
Consider uptitrating to 40 mg daily if symptoms worsen. Adjust 
as needed with ranitidine. 
[ ] Consider testing for H. pylori stool antigen and treat if 
positive. Patient was not able to provide a stool sample prior 
to discharge. 
[ ] Needs repeat colonoscopy for polyp removal within one year. 

FOLLOW-UP 
-PCP ___ days after discharge 

PROGRESS NOTE FROM DAY OF DISCHARGE

I have seen and examined ___, reviewed the findings, 
data, and plan of care documented by Dr. ___ ___ 
and agree, except for any additional comments below.

She will need outpatient GI follow-up for repeat colonoscopy in 
___ year and for EGD if her reflux symptoms persist.

Remainder of the plan per housestaff note.

Check if applies: [ x ] ___ is clinically stable for 
discharge today. The total time spent today on discharge 
planning, counseling and coordination of care was greater than 
30 minutes. 

___, ___ Attending
___ of Hospital Medicine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
2. Ranitidine 150 mg PO BID 
3. ClonazePAM 1.5 mg PO QHS 
4. QUEtiapine Fumarate 150 mg PO QHS 
5. Levothyroxine Sodium 112 mcg PO 3X/WEEK (___) 
6. Levothyroxine Sodium 75 mcg PO 4X/WEEK (___) 
7. Cetirizine 10 mg PO DAILY 
8. TraZODone 100 mg PO QHS 
9. Venlafaxine XR 225 mg PO DAILY 
10. TheraTears (carboxymethylcellulose sodium) 1 % ophthalmic 
(eye) BID 
11. Multivitamins 1 TAB PO DAILY 
12. Glucosamine (glucosamine sulfate) 500 mg oral BID 
13. Vitamin D 1000 UNIT PO DAILY 
14. Vitamin E 400 UNIT PO DAILY 
15. Gabapentin 100 mg PO BID:PRN sciatic pain 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*14 
Capsule Refills:*0 
2.  Cetirizine 10 mg PO DAILY  
3.  ClonazePAM 1.5 mg PO QHS  
4.  Gabapentin 100 mg PO BID:PRN sciatic pain  
5.  Glucosamine (glucosamine sulfate) 500 mg oral BID  
6.  Levothyroxine Sodium 112 mcg PO 3X/WEEK (___)  
7.  Levothyroxine Sodium 75 mcg PO 4X/WEEK (___)  
8.  Multivitamins 1 TAB PO DAILY  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  QUEtiapine Fumarate 150 mg PO QHS  
11.  Ranitidine 150 mg PO BID  
12.  TheraTears (carboxymethylcellulose sodium) 1 % ophthalmic 
(eye) BID  
13.  TraZODone 100 mg PO QHS  
14.  Venlafaxine XR 225 mg PO DAILY  
15.  Vitamin D 1000 UNIT PO DAILY  
16.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulosis 
Internal Hemorrhoids 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

WHAT BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for dark red blood with bowel movements and 
feeling lightheaded.

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- You had blood tests which showed your blood levels were 
normal. 
- You had a colonoscopy, which did not show active bleeding. It 
did show that you have internal hemorrhoids, diverticulosis and 
one benign appearing polyp. 

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- It is important that you continue to take your medications as 
prescribed.
- You need to follow up with your PCP ___ ___ days. 
- If you experience further bleeding, please call your PCP. 
- You will need another colonoscopy to remove the polyp within 
one year. 

We wish you the best in your recovery!

Your ___ Care Team

 
Followup Instructions:
___